US06864284B2
Synthesis of 6-Deoxyaminoascorbate Proline
6-Deoxyamino ascorbate (5 mmoles) is reacted with prolyl chloride (7 mmoles) in dry pyridine and worked up by the method as described above and crystallized from ethanol.

reactant | 6-Deoxyamino ascorbate | 5 mmoles | N[C@]1(C(=C(C(=O)O1)O)[O-])[C@@H](O)C
reactant | prolyl chloride | 7 mmoles | N1[C@H](C(=O)Cl)CCC1 | C5H8ClNO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-Deoxyaminoascorbate Proline | N1[C@H](C(=O)O)CCC1.N[C@]1(C(=C(C(=O)O1)O)[O-])[C@@H](O)C | InChI=1S/C6H9NO5.C5H9NO2/c1-2(8)6(7)4(10)3(9)5(11)12-6;7-5(8)4-2-1-3-6-4/h2,8-10H,7H2,1H3;4,6H,1-3H2,(H,7,8)/p-1/t2-,6+;4-/m00/s1
